* Test B3: Load transient — ff 27C
* Use resistor load for startup, then current step
.title PVT_B3_ff_27

.param mc_mm_switch = 0
.param MC_MM_SWITCH = 0
.subckt sky130_fd_pr__model__parasitic__res_po r0 r1 sub w=1 l=1
c0 r0 sub {0.1e-15*w*l}
c1 r1 sub {0.1e-15*w*l}
.ends sky130_fd_pr__model__parasitic__res_po
.lib "../sky130.lib.spice" ff
.temp 27

.include ../00_error_amp/design.cir
.include ../01_pass_device/design.cir
.include ../02_feedback_network/design.cir
.include ../03_compensation/design.cir
.include ../04_current_limiter/design.cir
.include ../05_uv_ov_comparators/design.cir
.include ../06_level_shifter/design.cir
.include ../07_zener_clamp/design.cir
.include ../08_mode_control/design.cir
.include ../09_startup/design.cir
.include design.cir

Vbvdd bvdd 0 PWL(0 0 10u 7 100m 7)
Ven en 0 PWL(0 0 0.5u 0 1u 2.2)
Vavbg avbg 0 1.226
Iibias 0 ibias 1u
Vsvdd svdd 0 2.2
Ven_ret en_ret 0 0

* Resistive load: 5k base (1mA), additional 555.6 ohm switched at 10ms via VCCS
* Use behavioral: R=5k for t<10ms, R=500 for t>=10ms
* Simpler: use Rload=5k always + current pulse for delta
Rload pvdd 0 5000
* Additional 9mA step at 10ms (total goes from 1mA to 10mA)
Istep pvdd 0 PWL(0 0 9.999m 0 10m 9m 20m 9m)

XDUT bvdd pvdd 0 avbg ibias svdd en en_ret uv_flag ov_flag startup_done pvdd_regulator

.option gmin=1e-10 method=gear reltol=1e-3 abstol=1e-10 vntol=1e-4
.ic V(pvdd)=0 V(bvdd)=0
.tran 2u 20m uic

.control
run
wrdata /home/ubuntu/analog-ai-chips/pvdd_regulator/10_top_integration/pvt_full_results/b3_ff_27_data.txt v(pvdd)
quit
.endc
.end
